US04023926
Preparation of 2-amino-5-(3'-chloro-4'-hyroxy anilino)-1,4-benzoquinone of the formula:
0.02 mole (2.78 g) of 3-amino-4-hydroxy phenol is dissolved in 200 cc of water to which have been added 20 cc of ammonia (22° Be). To this solution there are initially added 100 cc of H2O2 (20 volumes) and then immediately thereafter, with good agitation, 0.02 mole (3.60 g) of 2-chloro-4-amino phenol hydrochloride in 200 cc of water. The reaction mixture is left to stand for 5 hours at ambient temperature at which time it is filtered to recover the 2-amino-5-(3'-hydroxyanilino)-1,4-benzoquinone which is then washed with water, recrystallized in a mixture of dimethylformamide and water and dried for 5 hours under a vacuum with a boiling water bath. The product is chromatographically pure.

reactant | 3-amino-4-hydroxy phenol | 0.02 mole, 2.78 g | NC=1C=C(C=CC1O)O | C6H7NO2
reactant | ammonia | 20 cc | N | H3N
reactant | H2O2 | 100 cc | OO | H2O2
reactant | 2-chloro-4-amino phenol hydrochloride | 0.02 mole, 3.60 g | Cl.ClC1=C(C=CC(=C1)N)O
solvent | water | 200 cc | O | H2O
solvent | water | 200 cc | O | H2O
product | 2-amino-5-(3'-chloro-4'-hyroxy anilino)-1,4-benzoquinone | NC=1C(C=C(C(C1)=O)NC1=CC(=C(C=C1)O)Cl)=O | C12H9ClN2O3
